US08124628B2
Step A: Preparation of 2-(2-furylmethyl)-1H-isoindole-1,3(2H)-dione (i-1a)
Furfurylamine (5.70 mL, 61.8 mmol) and phthalic anhydride (10.0 g, 90.9 mmol) were heated to 120° C. for approximately 45 min. The reaction mixture was cooled to rt and then suspended in EtOH. The resulting suspension was filtered to afford the title compound i-1a. 1HNMR (500 MHz, CDCl3): δ 7.88 (dd, 2H, J=3.2, 5.3 Hz), 7.73 (dd, 2H, J=3.0, 5.5 Hz), 6.38 (d, 1H, J=3.2 Hz), 6.32 (m, 1H), 4.88 (s, 2H).

reactant | Furfurylamine | 61.8 mmol, 5.70 mL | C(C1=CC=CO1)N | C5H7NO
reactant | phthalic anhydride | 90.9 mmol, 10.0 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | EtOH | CCO | C2H6O
product | 2-(2-furylmethyl)-1H-isoindole-1,3(2H)-dione | O1C(=CC=C1)CN1C(C2=CC=CC=C2C1=O)=O | C13H9NO3
